US06194425B1
Using the general method of Example 55, ethyl chloroformate (46 μL, 0.48 mmol) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.15 g, 0.48 mmol) to provide 0.15 g of ethyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate as a white powder. Analysis: Calculated for C20H28N6O2: % C, 62.48; % H, 7.34; % N, 21.86; Found: % C, 61.73; % H, 7.28; % N, 21.62.

reactant | ethyl chloroformate | 0.48 mmol, 46 μL | ClC(=O)OCC | C3H5ClO2
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.48 mmol, 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | ethyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate | 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(OCC)=O)CCCC | C20H28N6O2
